US04861769
A mixture of ethyl 2-(2-bromoethoxyimino)-3-oxobutyrate (syn isomer)(218.9 g), ethylene glycol (156 ml), and benzene (400 ml) was refluxed in the presence of p-toluenesulfonic acid monohydrate under an azeotropic dehydration condition for 3 days. The mixture was poured into a mixture of ethyl acetate and saturated aqueous solution of sodium bicarbonate under ice-cooling. The organic layer was separated, washed with water, dried over magnesium sulfate and concentrated in vacuo to give a residue. The resiue was distilled at 2 mmHg at 144° to 149° C. to give ethyl 2-(2-bromoethoxyimino)3,3-ethylenedioxybutyrate (syn isomer)(333.3 g) as an oil.

reactant | ethyl 2-(2-bromoethoxyimino)-3-oxobutyrate | 218.9 g | BrCCON=C(C(=O)OCC)C(C)=O | C8H12BrNO4
reactant | ethylene glycol | 156 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(2-bromoethoxyimino)3,3-ethylenedioxybutyrate | 333.3 g | BrCCON=C(C(=O)OCC)C1(C)OCCO1 | C10H16BrNO5
